US04791200
5-Ethyl-4-(4-dibutylaminopropoxyphenyl)-2-phenylthiazole
The title compound was prepared according to Example 1, using p-hydroxybutyrophenone (20 g, 0.12 mol) in place of p-hydroxyacetophenone and 1-bromo-3-chloropropane (48 ml, 0.48 mol) to give 25 g (85% yield) of p-chloropropoxybutyrophenone as an oil. 1H NMR (CDCl3): δ7.92 (d, J=8.9 Hz, 2H), 6.91 (d, J=8.9 Hz, 2H), 4.15 (t, J=5.9 Hz, 2H), 3.73 (t, J=6.3 Hz, 2H), 2.87 (t, J=7.0 Hz, 2H), 2.23 (m, 2H), 1.78 (m, 2H), 0.99 (t, J= 7.0 Hz, 3H). Bromination (5 ml, 0.10 mol) followed by condensation with thiobenzamide (10 g, 73 mmol) of this product as described in Example 1 afforded 5-ethyl-4-(4-chloropropoxyphenyl)-2-phenylthiazole in 48% yield (15 g) as a white solid, mp 117°-119° C. Treatment of this product (5.1 g, 11 mmol) with dibutylamine in accordance with Example 1 gave 4.4 g (83% yield) of the free base of the title compound which was converted to the HCl salt, mp 128°-131° C. IR(KBr): 3400, 2610, 1620 cm-1, MS: 451(MH+). 1H NMR (CD3OD): δ7.96-7.02 (m, 9H), 4.12 (t, J=5.8 Hz, 2H), 3.38-2.76 (m, 8H), 2.20 (m, 2H), 1.75-1.18 (m, 14H), 0.91 (m, 3H).

reactant | thiobenzamide | 73 mmol, 10 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | 5-ethyl-4-(4-chloropropoxyphenyl)-2-phenylthiazole | C(C)C1=C(N=C(S1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCCl | C20H20ClNOS
reactant | dibutylamine | C(CCC)NCCCC | C8H19N
product | 5-Ethyl-4-(4-dibutylaminopropoxyphenyl)-2-phenylthiazole | C(C)C1=C(N=C(S1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCN(CCCC)CCCC | C28H38N2OS
